US06326377B1
Step a: N-(4-Chloroacetylphenyl)acetamide
23.5 mmol of chloroacetyl chloride and, in portions, 18.1 mmol of acetanilide, are added slowly, under an argon atmosphere, to 108 mmol of aluminium chloride in 90 ml of 1,2-dichloroethane. The reaction mixture is heated at 60° C. for 2 hours and then cooled with an ice bath. After slow hydrolysis using ice, and filtration, the precipitate obtained is washed with ethyl ether and dried. The expected product so obtained is used in the following without being purified.

reactant | chloroacetyl chloride | 23.5 mmol | ClCC(=O)Cl | C2H2Cl2O
reactant | acetanilide | 18.1 mmol | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | aluminium chloride | 108 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 90 ml | ClCCCl | C2H4Cl2
product | N-(4-Chloroacetylphenyl)acetamide | ClCC(=O)C1=CC=C(C=C1)NC(C)=O | C10H10ClNO2
